US04035369
A mixture of 5 parts of 1-(3-chloropropyl)-1,3-dihydro-3-(1-methylethenyl)-2H-benzimidazol-2-one, 4.5 parts of (4-fluorophenyl) (4-piperidinyl) methanone, 10 parts of sodium carbonate, 0.2 parts of potassium iodide and 80 parts of 4-methyl-2-pentanone is stirred and refluxed overnight. After cooling, the reaction mixture is poured onto water and the layers are separated. The organic phase is dried, filtered and evaporated. The residue is taken up in 2-propanone and 2-propanol, previously saturated with gaseous hydrogen chloride, is added. After boiling for 30 minutes, the mixture is evaporated. A diluted hydrochloric acid solution is added to the residue and the whole is stirred and warmed at 40°-45° C for 1 hour. After the addition of 4-methyl-2-pentanone, the mixture is alkalized with ammonium hydroxide and the layers are separated. The organic phase is dried, filtered and and evaporated. The residue is crystallized from 4-methyl-2-pentanone. The product is filtered off and dried, yielding 1.5 parts (20%) of 1-{3-[4-(4-fluorobenzoyl)-1-piperidinyl]propyl}-1,3-dihydro-2H-benzimidazol-2-one; mp. 163.9° C.

reactant | 1-(3-chloropropyl)-1,3-dihydro-3-(1-methylethenyl)-2H-benzimidazol-2-one | ClCCCN1C(N(C2=C1C=CC=C2)C(=C)C)=O | C13H15ClN2O
reactant | (4-fluorophenyl) (4-piperidinyl) methanone | FC1=CC=C(C=C1)C(=O)C1CCNCC1 | C12H14FNO
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium iodide | [I-].[K+]
solvent | 4-methyl-2-pentanone | CC(CC(C)=O)C | C6H12O
product | 1-{3-[4-(4-fluorobenzoyl)-1-piperidinyl]propyl}-1,3-dihydro-2H-benzimidazol-2-one | 20% | FC1=CC=C(C(=O)C2CCN(CC2)CCCN2C(NC3=C2C=CC=C3)=O)C=C1 | C22H24FN3O2
